US04248893
N-[1-(benzyl)-2-(phenyl)-ethyl]-cis-2-Octyl-cyclopropanoctanamide
To a cooled solution of 2.0 g (cis)-2-octylcyclopropanoctanoic acid in 70 ml methylene chloride at -20° is added first 0.707 g triethylamine and then dropwise 0.732 g ethylchloroformate. The reaction mixture is then allowed to come to room temperature and stirred for 1 hours. Then 1.5 g of 1-benzyl-2-(phenyl)ethylamine is added, and the reaction mixture stirred for 16 hours. The reaction mixture is then extracted a few times with 2 N hydrochloric acid, then with 2 N aq. sodium hydroxide sol. and washed several times with saturated aq. sodium chloride. The organic phase is then dried over anh. sodium sulphate filtered and evaporated i.v. to dryness to obtain a residue, which upon crystallization from pentane yields the title product (m.p. 40°-45°).

reactant | (cis)-2-octylcyclopropanoctanoic acid | 2.0 g | C(CCCCCCC)[C@@H]1[C@@H](C1)CCCCCCCC(=O)O | C19H36O2
reactant | triethylamine | 0.707 g | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.732 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | 1-benzyl-2-(phenyl)ethylamine | 1.5 g | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)N | C15H17N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | N-[1-(benzyl)-2-(phenyl)-ethyl]-cis-2-Octyl-cyclopropanoctanamide | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)NC(CCCCCCC[C@H]1[C@H](C1)CCCCCCCC)=O | C34H51NO
